US06562830B1
2-(Ethoxybenzamido)-3-methoxybenzamide
2-Ethoxybenzoyl chloride (8.9 g, 0.048 mol) was added dropwise to a stirred solution of 2-amino-3-methoxybenzamide (4.0 g, 0.024 mol) in pyridine (35 ml) under a nitrogen atmosphere at 0° C. After 20 hours at room temperature, the solvent was removed by evaporation under vacuum, the residue dissolved in dichloromethane (100 ml) and the solution washed successively with 2N hydrochloric acid (2×100 ml) and saturated aqueous sodium hydrogen carbonate solution (2×100 ml). The organic phase was dried (MgSO4) and evaporated under vacuum, then the resulting oil chromatographed on silica gel (40 g), eluting with a mixture of methanol in-dichloromethane (2%), to give the title compound as a colourless solid (4.1 g, 54%), m.p. 177-179° C.

reactant | 2-Ethoxybenzoyl chloride | 0.048 mol, 8.9 g | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
reactant | 2-amino-3-methoxybenzamide | 0.024 mol, 4.0 g | NC1=C(C(=O)N)C=CC=C1OC | C8H10N2O2
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Ethoxybenzamido)-3-methoxybenzamide | 4.1 g, 54% | C(C)OC1=C(C(=O)NC2=C(C(=O)N)C=CC=C2OC)C=CC=C1 | C17H18N2O4
